US09227976B2
Step 4: 3-methyl-4-(phenylethynyl)-1H-pyrazol-5-amine
A mixture of N-(3-methyl-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide (15 g, 63 mmol), ethanol (50 mL) and 25% aq. NaOH solution (50 mL) was stirred at 90° C. for 1 h and cooled to room temperature. The reaction mixture was diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo. Diethyl ether was added to the residue and the solid was collected by filtration, washed with diethyl ether and dried in vacuo to provide the title compound as a solid (3.3 g).

reactant | N-(3-methyl-4-(phenylethynyl)-1H-pyrazol-5-yl)acetamide | 63 mmol, 15 g | CC1=NNC(=C1C#CC1=CC=CC=C1)NC(C)=O | C14H13N3O
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | NaOH | 50 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-methyl-4-(phenylethynyl)-1H-pyrazol-5-amine | 3.3 g | CC1=NNC(=C1C#CC1=CC=CC=C1)N | C12H11N3
